US08314119B2
5-Fluoro-3,4′-bipyridine
Prepared from 3-bromo-5-fluoropyridine (439.0 mg, 2.50 mmol) and pyridin-4-ylboronic acid (509.9 mg, 3.73 mmol) according to Method K, except the product was purified by silica gel chromatography (ethyl acetate, Rf=0.21) instead of preparative HPLC; 1H NMR (300 MHz, chloroform-D) δ ppm 7.50-7.51 (m, 2H), 7.65 (dt, J=9.1, 2.4 Hz, 1H), 8.56 (d, J=2.8 Hz, 1H), 8.73-8.76 (m, 3H). MS (DCI/NH3) m/z=175 (M+H)+.

reactant | 3-bromo-5-fluoropyridine | 2.50 mmol, 439.0 mg | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | pyridin-4-ylboronic acid | 3.73 mmol, 509.9 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 5-Fluoro-3,4′-bipyridine | FC=1C=C(C=NC1)C1=CC=NC=C1 | C10H7FN2
